US04880806
To a solution of sodium boron hydroxide (44 g) in anhydrous tetrahydrofuran is added a solution of 2,5,6-trifluoro-3-nitrobenzoic acid (22 g) in anhydrous tetrahydrofuran (40 ml) at below 10° C., and thereto is further added dropwise a solution of boron trifluoride etherate (20 ml) in anhydrous tetrahydrofuran (40 ml) at below 10° C. After the addition, the mixture is stirred at room temperature for one hour. The reaction mixture is poured into ice water and extracted with diethyl ether. The extract is dried, and then the solvent is distilled off to give 2,5,6-trifluoro-3-nitrobenzyl alcohol (14 g).

reactant | sodium boron hydroxide | 44 g | [OH-].[B+3].[Na+].[OH-].[OH-].[OH-]
reactant | 2,5,6-trifluoro-3-nitrobenzoic acid | 22 g | FC1=C(C(=O)O)C(=C(C=C1[N+](=O)[O-])F)F | C7H2F3NO4
reactant | boron trifluoride etherate | 20 ml | B(F)(F)F.CCOCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2,5,6-trifluoro-3-nitrobenzyl alcohol | 14 g | FC1=C(CO)C(=C(C=C1[N+](=O)[O-])F)F | C7H4F3NO3
